US04166119
A sample of 5.8 g of 2,3-dihydrospiro[benzofuran-2,4'-piperidine], Example 7, is treated with 4.8 g of 2-furoyl chloride according to the procedure of Example 18 to provide an off-white solid. This solid is purified by three recrystallizations from hexane to provide the product, 2,3-dihydro-1'-(2-furoyl)spiro[benzofuran-2,4'-piperidine], mo 102°-103° C.

reactant | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | 5.8 g | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
reactant | 2-furoyl chloride | 4.8 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 2,3-dihydro-1'-(2-furoyl)spiro[benzofuran-2,4'-piperidine] | O1C(=CC=C1)C(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C17H17NO3
